US07713982B2
b) 3-butyl-1-ethyl-7-(phenylmethyl)-3,7-dihydro-1H-purine-2,6-dione
3-butyl-7-(phenylmethyl)-3,7-dihydro-1H-purine-2,6-dione (0.429 g, 1.24 mmol) and potassium carbonate (0.256 g, 1.85 mmol) were suspended in DMF (8 mL), iodoethane (0.113 mL, 1.42 mmol) was added. The reaction mixture was stirred at ambient temperature overnight. The reaction mixture was evaporated to dryness and the residue was partitioned between water and ethyl acetate. The organic layer was washed with water, followed by brine, dried over anhydrous sodium sulphate and concentrated under reduced pressure to yield the title compound; 1H NMR (400 MHz; CDCl3) δ: 0.96 (3H, t), 1.25 (3H, t), 1.36-1.45 (2H, m), 1.72-1.76 (2H, m), 4.05-4.13 (4H, m), 5.50 (2H, s), 7.32-7.40 (5H, m), 7.52 (1H, s); m/z 327[MH+].

reactant | 3-butyl-7-(phenylmethyl)-3,7-dihydro-1H-purine-2,6-dione | 1.24 mmol, 0.429 g | C(CCC)N1C(NC(C=2N(C=NC12)CC1=CC=CC=C1)=O)=O | C16H18N4O2
reactant | potassium carbonate | 1.85 mmol, 0.256 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 1.42 mmol, 0.113 mL | ICC | C2H5I
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 3-butyl-1-ethyl-7-(phenylmethyl)-3,7-dihydro-1H-purine-2,6-dione | C(CCC)N1C(N(C(C=2N(C=NC12)CC1=CC=CC=C1)=O)CC)=O | C18H22N4O2
